US07935674B2
4-(Difluoromethoxy)benzeneboronic acid
To a stirred solution of 1-bromo-4-(difluoromethoxy)-benzene (1.18 g) and triisopropyl borate (1.34 ml) in tetra-hydrofuran (6 ml) was added dropwise n-butyl lithium (1.58 M hexane solution, 3.68 ml) at −78° C. over 10 minutes under argon atmosphere, then the reaction mixture was allowed to warm to room temperature. After being starred at room temperature for 3 hours, the mixture was cooled to 0° C., and thereto were added a 6 N aqueous hydrochloric acid solution and water. The resultant mixture was extracted with ethyl acetate (30 ml) twice, and the combined organic layer was washed with brine (10 ml), dried over sodium sulfate. The insoluble materials were filtered off, and the filtrate was evaporated under reduced pressure. The residual solid was triturated with cold hexane to give the titled compound as a colorless solid. 1H-NMR (DMSO-d6) δ 7.12 (d, J=8.4 Hz, 2H), 7.27 (t, J=74.1 Hz, 1H), 7.83 (d, J=8.6 Hz, 2H), 8.08 (br-s, 2H).

reactant | 1-bromo-4-(difluoromethoxy)-benzene | 1.18 g | BrC1=CC=C(C=C1)OC(F)F | C7H5BrF2O
reactant | triisopropyl borate | 1.34 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyl lithium | 1.58 M, 3.68 ml | C(CCC)[Li]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | tetra-hydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(Difluoromethoxy)benzeneboronic acid | FC(OC1=CC=C(C=C1)B(O)O)F | C7H7BF2O3
